US05223539
N-cyclohexyl-N-cyclopentyl-4-[hydroxy(2,4,5-trimethoxyphenyl)methyl]benzamide
To a cold (-70° C.), stirred solution of 4-bromo-N-cyclohexyl-N-cyclopentylbenzamide (1.5 g, 4.3 mmol) in THF (20 ml) was added slowly a solution of tertbutyllithium (5 ml of 1.7 M solution in pentane) under an Argon atmosphere. The reaction was stirred at -70° to -75° for 20 min. and a solution of 2,4,5-trimethoxybenzaldehyde (843 mg, 4.3 mmol) in THF (10 ml) was added dropwise over 30 min. The reaction was stirred at -70° to -75° for 30 min. and at room temperature for 1 hr. The reaction was quenched by the addition of water and the aqueous layer extracted three times with ethyl acetate. The combined organic layers were washed with water and dried (Na2SO4). The drying agent was filtered and the filtrate concentrated in vacuo to give the crude product. Purification was effected by chromatography on silica gel using mixtures of ethyl acetate and hexane. The product was isolated as a glass.

reactant | 4-bromo-N-cyclohexyl-N-cyclopentylbenzamide | 4.3 mmol, 1.5 g | BrC1=CC=C(C(=O)N(C2CCCC2)C2CCCCC2)C=C1 | C18H24BrNO
reactant | tertbutyllithium | 1.7 M, 5 ml | C(C)(C)(C)[Li]
reactant | 2,4,5-trimethoxybenzaldehyde | 4.3 mmol, 843 mg | COC1=C(C=O)C=C(C(=C1)OC)OC | C10H12O4
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | N-cyclohexyl-N-cyclopentyl-4-[hydroxy(2,4,5-trimethoxyphenyl)methyl]benzamide | C1(CCCCC1)N(C(C1=CC=C(C=C1)C(C1=C(C=C(C(=C1)OC)OC)OC)O)=O)C1CCCC1 | C28H37NO5
